US05739132
To 2.23 g of 2-n-butylsulfonylamino-5-[2-cyanomethylpyridazin-3(2H)-on-6-yl]indane dissolved in 45 ml of dimethylformamide were added 1.8 g of sodium azide and 1.5 g of ammonium chloride, and the mixture was stirred at 95° C. for 3.5 hours. After cooling, water was added to the reaction mixture, and the mixture was made acidic with 10% hydrochloric acid. Crystals precipitated were collected by filtration, dried and then recrystallized from methanol to obtain 2.19 g of 2-n-butylsulfonylamino-5-[2-(5-tetrazolyl)methylpyridazin-3(2H)-on-6-yl]indane.

reactant | 2-n-butylsulfonylamino-5-[2-cyanomethylpyridazin-3(2H)-on-6-yl]indane | 2.23 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(N(N1)CC#N)=O | C19H22N4O3S
reactant | sodium azide | 1.8 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.5 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-n-butylsulfonylamino-5-[2-(5-tetrazolyl)methylpyridazin-3(2H)-on-6-yl]indane | 2.19 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(N(N1)CC1=NN=NN1)=O | C19H23N7O3S
